US07842696B2
Ammonium chloride (74 mg, 1.4 mmol) was added to a stirred solution of 3′-nitro-biphenyl-4-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide (prepared by the method as described above) (123 mg, 0.2 mmol) in a mixture of THF (6 mL) and H2O (4 ml). Iron powder (77 mg) was then added and the resulting mixture at reflux temperature for 3 hrs. The mixture was filtered, and the filtrate was concentrated. The residue was dissolved in EtOAc, washed with 5% aqueous NaHCO3 solution, followed by saturated brine solution. The organic layer was dried over Na2SO4 and concentrated in vacuo to afford 69 mg (49.3% yield) of 3′-Amino-biphenyl-4-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide. LCMS Purity: 92.88%. 1H NMR (CDCl3): δ 7.9 (d, 2H), 7.8-7.7 (bd, 1H), 7.7-7.6 (m, 4H), 7.6-7.55 (bs, 1H), 7.4-7.3 (d, 1H), 7.2 (d, 1H), 7.0 (d, 1H), 6.9 (t, 1H), 6.8 (d, 1H), 4.38-4.3 (m, 1H), 4.3-4.22 (m, 1H), 4.08-3.96 (bd, 2H), 3.94-3.86 (bs, 1H), 3.84-3.64 (m, 4H), 3.64-3.32 (m, 2H), 3.52-3.46 (d, 1H), 3.44-3.4 (t, 1H), 3.3-3.2 (bs, 2H).

reactant | Ammonium chloride | 1.4 mmol, 74 mg | [Cl-].[NH4+]
reactant | 3′-nitro-biphenyl-4-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide | O=C(CNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)[N+](=O)[O-])N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C27H23F3N4O5
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | H2O | 4 ml | O | H2O
catalyst | Iron | 77 mg | [Fe] | Fe
product | 3′-Amino-biphenyl-4-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide | 69 mg, 49.3% yield | O=C(CNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)N)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C27H25F3N4O3
